US04495182
A mixture of 2-chloro-3-aminopyridine (12.8 g) and methyl iodide (56.8 g) was allowed to stand overnight in dark place at room temperature. To the mixture was added ethanol (20 ml) and the precipitates were collected by filtration, washed with diisopropyl ether and dried to give 1-methyl-2-chloro-3-aminopyridinium iodide (15.5 g), mp. 165° to 167° C. (dec.).

reactant | 2-chloro-3-aminopyridine | 12.8 g | ClC1=NC=CC=C1N | C5H5ClN2
reactant | methyl iodide | 56.8 g | CI | CH3I
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-methyl-2-chloro-3-aminopyridinium iodide | 15.5 g | [I-].C[N+]1=C(C(=CC=C1)N)Cl | InChI=1S/C6H8ClN2.HI/c1-9-4-2-3-5(8)6(9)7;/h2-4H,8H2,1H3;1H/q+1;/p-1
